US04517202
(E)-6-(3-tert-Butyldimethylsilyloxy-3-cyclohexylprop-1-enyl)-3-(4-ethoxycarbonylcyclohexylidene)bicyclo[3,3,0]octan-2-one (15 mg), prepared as described in Reference Example 36 and in the form of (±)-(E)-6β-(3α-tert-butyldimethylsilyloxy-3-cyclohexylprop-1-enyl)-3-(4-ethoxycarbonylcyclohexylidene)bicyclo[3,3,0]-octan-2-one, otherwise known as (±)-ethyl(13E)-(9S,15S)-6a-oxo-2,5-ethano-6,9-methano-15-tert-butyldimethylsilyloxy-15-cyclohexyl-16,17,18,19,20-pentanorprosta-5,13-dienoate and a solution of water, glacial acetic acid and tetrahydrofuran (0.59 ml; 7:13:2 by volume) were stirred together at 45° C. for 5 hours. After cooling, the mixture was diluted with saturated aqueous sodium chloride solution and extracted with ethyl acetate. The extract was washed with aqueous sodium carbonate solution (2M) and then with saturated aqueous sodium chloride solution, dried over anhydrous sodium sulphate, and concentrated under reduced pressure. The residue was subjected to medium pressure, short column chromatography on silica gel, using a mixture of ethyl acetate and hexane (2:1 v/v) as eluant, to give (E)-6-(3-cyclohexyl-3-hydroxyprop-1-enyl)-3-(4-ethoxycarbonylcyclohexylidene)bicyclo[3,3,0]octan-2-one (8.6 mg), in the form of (±)-(E)-6β-(3-cyclohexyl-3α-hydroxyprop-1-enyl)-3-(4-ethoxycarbonylcyclohexylidene)bicyclo[3,3,0]octan-2-one, otherwise known as (±)-ethyl(13E)-(9S,15S)-6a-oxo-2,5-ethano-6,9-methano-15-hydroxy-15-cyclohexyl-16,17,18,19,20-pentanorprosta-5,13-dienoate [NMR (in deuterochloroform): multiplets at 5.4-5.6, 3.6-4.3 and 0.8-3.0 p.p.m⟧

reactant | (E)-6-(3-tert-Butyldimethylsilyloxy-3-cyclohexylprop-1-enyl)-3-(4-ethoxycarbonylcyclohexylidene)bicyclo[3,3,0]octan-2-one | 15 mg | [Si](C)(C)(C(C)(C)C)OC(/C=C/C1C2CC(C(C2CC1)=O)=C1CCC(CC1)C(=O)OCC)C1CCCCC1 | C32H52O4Si
reactant | water | O | H2O
reactant | acetic acid | C(C)(=O)O | C2H4O2
reactant | tetrahydrofuran | 0.59 ml | O1CCCC1 | C4H8O
solvent | sodium chloride | [Cl-].[Na+]
product | (E)-6-(3-cyclohexyl-3-hydroxyprop-1-enyl)-3-(4-ethoxycarbonylcyclohexylidene)bicyclo[3,3,0]octan-2-one | 8.6 mg | C1(CCCCC1)C(/C=C/C1C2CC(C(C2CC1)=O)=C1CCC(CC1)C(=O)OCC)O | C26H38O4
